US07915267B2
3-[({[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]methyl}oxy)methyl]benzonitrile
A suspension of [1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]methanol obtained in Reference Example 36 (3.00 g, 8.79 mmol), 3-(bromomethyl)benzonitrile (1.89 g, 9.67 mmol) and 60% sodium hydride (oil dispersion, 0.316 g, 13.2 mmol) in THF (100 mL) was stirred at 70° C. for 15 hr. The reaction mixture was cooled to room temperature, and extracted with water and ethyl acetate. The organic layer was washed with saturated brine, dried over sodium sulfate, and concentrated. The residue was purified by silica gel column chromatography (10-30% ethyl acetate/hexane) to give the title compound as a colorless oil (3.50 g, 87%).

reactant | [1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]methanol | C1(=CC=CC=C1)C(N1N=C(N=C1)CO)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H19N3O
reactant | 3-(bromomethyl)benzonitrile | 9.67 mmol, 1.89 g | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
reactant | sodium hydride | 13.2 mmol, 0.316 g | [H-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-[({[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]methyl}oxy)methyl]benzonitrile | 3.50 g, 87% | C1(=CC=CC=C1)C(N1N=C(N=C1)COCC=1C=C(C#N)C=CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H24N4O
